US08912224B2
Sodium hydride (60% in oil, 2.1 g, 52 mmol) and methyl 3-oxo-3-o-tolylpropanoate (10 g, 52 mmol) were suspended in tetrahydrofuran and 4-bromo-2-(bromomethyl)-1-fluoro-benzene (15.3 g, 57 mmol) was added. After complete conversion, the mixture was quenched with ice and a saturated solution of ammonium chloride and extracted with n-heptane. The combined organic layers were washed once with a saturated solution of ammonium chloride, water and brine. The organic layer was dried over magnesium sulfate and evaporated to dryness. The obtained yellow oil was dissolved in 25 ml of acetic acid, 25 ml of concentrated hydrochloric acid and 20 ml of 1,4-dioxane and heated under reflux for 4 h until LC/MS showed consumption of the starting material. 50 ml of water and 100 ml of tert-butyl methyl ether were added and the product was extracted. The combined organic layers were washed once with saturated solution of ammonium chloride, water and brine. The organic layer was dried over magnesium sulfate and evaporated to dryness. The residue was purified by column chromatography (silica gel, heptane/ethyl acetate gradient) to give 11.2 g of 3-(5-bromo-2-fluoro-phenyl)-1-o-tolyl-propan-1-one as a colorless oil.

reactant | Sodium hydride | 52 mmol, 2.1 g | [H-].[Na+]
reactant | methyl 3-oxo-3-o-tolylpropanoate | 52 mmol, 10 g | O=C(CC(=O)OC)C1=C(C=CC=C1)C | C11H12O3
reactant | 4-bromo-2-(bromomethyl)-1-fluoro-benzene | 57 mmol, 15.3 g | BrC1=CC(=C(C=C1)F)CBr | C7H5Br2F
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(5-bromo-2-fluoro-phenyl)-1-o-tolyl-propan-1-one | 11.2 g | BrC=1C=CC(=C(C1)CCC(=O)C1=C(C=CC=C1)C)F | C16H14BrFO
